US20010023305A1
Preparation of N-(3-Chloropropyl)-t-Butyl Amine
A round-bottom, 250 milliliter, three-necked flask was equipped with a magnetic stir bar, a Claisen adapter, equipped with a thermocouple and a dry-ice condenser with a gas inlet, and a pressure-equalizing dropping funnel. This apparatus was baked in an oven overnight at 125° C., assembled hot, and purged with argon until cool. The reaction flask was charged with 1-bromo-3-chloropropane 15.74 grams, (0.10 moles, 1 equivalent). t-Butylamine 29.26 grams, (0.40 moles, 4 equivalents) was added dropwise via the addition funnel over a period of one hour. After addition was complete, samples of the reaction mixture were removed periodically, washed with saturated sodium bicarbonate solution, and assayed for unreacted 1-bromo-3-chloropropane by gas chromatography (GLC). The reaction was allowed to stir until 1-bromo-3-chloropropane was consumed. Next, 75 milliliters of saturated sodium bicarbonate solution and 25 milliliters of distilled water were added to the reaction flask. The reaction mixture was then transferred to a separatory funnel and extracted 2×75 milliliters with ethyl ether. The organic layer was then dried with magnesium sulfate, filtered, and concentrated on a rotary evaporator, to afford a colorless, slightly hazy solution with a yield=10.47 g (70%); (GC assay=93%).

reactant | 1-bromo-3-chloropropane | 0.10 moles, 15.74 grams, 1 equivalent | BrCCCCl | C3H6BrCl
reactant | t-Butylamine | 0.40 moles, 29.26 grams, 4 equivalents | C(C)(C)(C)N | C4H11N
product | N-(3-Chloropropyl)-t-Butyl Amine | ClCCCNC(C)(C)C | C7H16ClN
